US07365174B2
In an amount of 515.8 mg of 2-naphthaleneethanol was added with 30 ml of methylene chloride and dissolved therein, added with 6.3 ml of dimethyl sulfoxide, 2.5 ml of triethylamine, and 1.4 g of sulfur trioxide/pyridine complex, stirred at room temperature for 2 hours, then added with 50 ml of water, and extracted with 50 ml of ethyl acetate, and the organic layer was successively washed with 30 ml of saturated aqueous ammonium chloride, and 30 ml of saturated brine. The organic layer was dried over anhydrous sodium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure to obtain 511 mg of 2-(naphthalen-2-yl)acetaldehyde.

reactant | 2-naphthaleneethanol | 515.8 mg | C1=C(C=CC2=CC=CC=C12)CCO | C12H12O
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | dimethyl sulfoxide | 6.3 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | water | 50 ml | O | H2O
product | 2-(naphthalen-2-yl)acetaldehyde | 511 mg | C1=C(C=CC2=CC=CC=C12)CC=O | C12H10O
